US06156700
Preparation of 3-[3-(2-Hydroxy-3-iodo-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A solution of N-iodosuccinimide (0.240 g, 0.00107 mol) in acetone is added dropwise to a solution of 3-[3-(2-hydroxy-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.430 g, 0.000992 mol) in acetone and the resultant mixture is stirred overnight at room temperature. Additional N-iodosuccinimide (0.120 g, 0.000635 mol) is added and the mixture is stirred three hours at room temperature. The mixture is concentrated in vacuo to afford a red gum which is chromatographed on silica gel with ether:methylene chloride. The fractions containing the title compound are washed with 1M sodium thiosulfate and brine, dried over anyhdrous magnesium sulfate and concentrated in vacuo to afford the title compound as a yellow solid (0.280 g, 46.8%, mp 241-242° C.).

reactant | N-iodosuccinimide | 0.00107 mol, 0.240 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 3-[3-(2-hydroxy-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.000992 mol, 0.430 g | OC1=C(C=CC=C1C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)C | C20H14F3N3O3S
reactant | N-iodosuccinimide | 0.000635 mol, 0.120 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetone | CC(=O)C | C3H6O
product | 3-[3-(2-Hydroxy-3-iodo-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.280 g, 46.8% | OC1C(=CC=CC1(I)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)C | C20H15F3IN3O3S
